US04230707
10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carbonitrile
A mixture of 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide (3.8 g., 0.015 mol), p-toluenesulfonyl chloride (4.4 g., 0.023 mol) and pyridine (3.8 ml, 0.046 mol) in dimethylformamide (50 ml) is heated at 95° C. for 1 hour. The mixture is cooled, diluted with water (5 ml) and stirred. The precipitate is filtered, washed with water and dried. Recrystallization from 2-propanol gives golden crystals (2.5 g.) mp 233°-234° C.

reactant | 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide | 0.015 mol, 3.8 g | O=C1C=2C(N=C3N1C=C(C=C3)C(=O)N)=CSC2 | C11H7N3O2S
reactant | p-toluenesulfonyl chloride | 0.023 mol, 4.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 0.046 mol, 3.8 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carbonitrile | O=C1C=2C(N=C3N1C=C(C=C3)C#N)=CSC2 | C11H5N3OS
